US08937092B2
To a stirred solution of 4-bromo-2-fluorophenyl-methanamine (5.834 g, 28.592 mmol) in pyridine was added methanesulfonyl chloride (4.2 mL, 54.325 mmol) at 0° C. The reaction mixture was stirred for 1 h, then diluted with dichloromethane. The mixture was washed with water. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. N-(4-bromo-2-fluorobenzyl)methanesulfonamide (7.597 g) was obtained as 93% yield.

reactant | 4-bromo-2-fluorophenyl-methanamine | 28.592 mmol, 5.834 g | BrC1=CC(=C(C=C1)CN)F | C7H7BrFN
reactant | methanesulfonyl chloride | 54.325 mmol, 4.2 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-bromo-2-fluorobenzyl)methanesulfonamide | 7.597 g, 93% yield | BrC1=CC(=C(CNS(=O)(=O)C)C=C1)F | C8H9BrFNO2S
